US07700657B2
(e) (E)-3-[3-(tert-Butyldimethylsilanyloxy)phenyl]pent-2-en-1-ol
In a manner analogous to example 1e, by reaction of 7.6 g (23 mmol) of ethyl (E)-3-[3-(tert-butyldimethylsilanyloxy)phenyl]pent-2-enoate with 1.05 g (25 mmol) of lithium aluminum hydride. A colorless oil is obtained (m=6.7 g; Y=100%).

reactant | ethyl (E)-3-[3-(tert-butyldimethylsilanyloxy)phenyl]pent-2-enoate | 23 mmol, 7.6 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)/C(=C/C(=O)OCC)/CC | C19H30O3Si
reactant | lithium aluminum hydride | 25 mmol, 1.05 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (E)-3-[3-(tert-Butyldimethylsilanyloxy)phenyl]pent-2-en-1-ol | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)/C(=C/CO)/CC | C17H28O2Si
